US08895566B2
Oxalyl chloride (3.7 mL, 42 mmol) was added dropwise to a solution of 3-bromothiophenol (5.00 g, 26.4 mmol) in ether (20 mL). The mixture was heated at reflux for 1.5 hours, cooled to room temperature, and concentrated in vacuo. The resulting residue was taken up in DCM (50 mL) and cooled to 0° C. Aluminum chloride (4.23 g, 31.7 mmol) was added in portions. The resultant mixture was stirred at reflux for 30 minutes, cooled to room temperature and poured into ice water with stirring. The organic layer was separated and successively washed with saturated aqueous NaHCO3, water and brine. The organic layer was dried and concentrated in vacuo to give a solid, which was suspended in 20% EtOAc in hexanes (50 mL) and heated at reflux for 10 minutes. After cooling, the precipitated solid was collected by filtration to afford crude 6-bromobenzo[b]thiophene-2,3-dione (3.22 g, 50%). The 6-bromobenzo[b]thiophene-2,3-dione was added to ammonium hydroxide (35% aqueous solution, 40 mL) at 5-10° C., followed by dropwise addition of hydrogen peroxide (35% aqueous solution, 5.5 mL, 66 mmol). The resulting mixture was stirred at room temperature for 30 minutes, and then filtered to give 6-bromobenzo[b]thiophene-3-carboxamide (1.30 g, 38%) as a solid. 1H NMR (DMSO-d6, 400 MHz) δ □8.66 (d, J=8.8 Hz, 1H), 8.62 (s, 1H), 8.23 (s, 1H), 7.81 (s, 1H), 7.73 (d, J=8.8 Hz, 1H).

reactant | Oxalyl chloride | 42 mmol, 3.7 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-bromothiophenol | 26.4 mmol, 5.00 g | BrC=1C=C(C=CC1)S | C6H5BrS
reactant | Aluminum chloride | 31.7 mmol, 4.23 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | ether | 20 mL | CCOCC | C4H10O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-bromobenzo[b]thiophene-2,3-dione | 3.22 g, 50% | BrC=1C=CC2=C(SC(C2=O)=O)C1 | C8H3BrO2S
